US07361763B2
Step 3: Synthesis of 5-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-pyridin-2-ol
To a solution of 5-bromo-3-[1-(6-fluoro-pyridin-3-yl)-2-methoxy-vinyl]-pyridin-2-ylamine (220 mg, 0.678 mmol) in 1,4-dioxane (3 ml) in a Smith process vial was added 0.3 ml of 70% aqueous perchloric acid. The reaction was irradiated in a Personal Chemistry® microwave to 150° C. for 300 s. The reaction mixture was diluted with water and neutralized to pH 7 by addition of an aqueous solution of sodium hydroxide. The resulting precipitate was filtered, washed with water, and dried in vacuo to yield the title compound as a beige solid (152 mg, 77% yield). 1H NMR (DMSO-d6): δ 12.1 (broad s, 1H), 11.7 (broad s, 1H), 8.32 (d, J=2.5 Hz, 1H), 8.30 (d, J=2.5 Hz, 1H), 7.83 (dd, J=2.5, 11.5 Hz, 1H), 7.82 (s, 2H), 7.67 (s, 1H), 6.43 (d, J=11.5 Hz, 1H); MS: m/z 290 [MH]+.

reactant | 5-bromo-3-[1-(6-fluoro-pyridin-3-yl)-2-methoxy-vinyl]-pyridin-2-ylamine | 0.678 mmol, 220 mg | BrC=1C=C(C(=NC1)N)C(=COC)C=1C=NC(=CC1)F | C13H11BrFN3O
reactant | perchloric acid | 0.3 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 5-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-pyridin-2-ol | 152 mg, 77% yield | BrC=1C=C2C(=NC1)NC=C2C=2C=CC(=NC2)O | C12H8BrN3O
